US07790747B2
Using general procedure A, N2-cyclohexyl-1-(2,5-difluorophenyl)-ethane-1,2-diamine (750 mg, 2.95 mmol) and [3-(4-oxo-piperidin-1-yl)-butyl]-carbamic acid tert-butyl ester (797 mg, 2.95 mmol) afforded {3-[4-(2-cyclohexylamino-1-{2,5-difluorophenyl}-ethylamino)-piperidin-1-yl]-butyl}-carbamic acid tert-butyl ester (1.34 g, 89%).

reactant | N2-cyclohexyl-1-(2,5-difluorophenyl)-ethane-1,2-diamine | 2.95 mmol, 750 mg | C1(CCCCC1)NCC(N)C1=C(C=CC(=C1)F)F | C14H20F2N2
reactant | [3-(4-oxo-piperidin-1-yl)-butyl]-carbamic acid tert-butyl ester | 2.95 mmol, 797 mg | C(C)(C)(C)OC(NCCC(C)N1CCC(CC1)=O)=O | C14H26N2O3
product | {3-[4-(2-cyclohexylamino-1-{2,5-difluorophenyl}-ethylamino)-piperidin-1-yl]-butyl}-carbamic acid tert-butyl ester | 1.34 g, 89% | C(C)(C)(C)OC(NCCC(C)N1CCC(CC1)NC(CNC1CCCCC1)C1=C(C=CC(=C1)F)F)=O | C28H46F2N4O2
